US08431596B2
5-(4-Methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
5-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (2 g, 9.4 mmol), 4-methoxybenzeneboronic acid (1.71 g, 11.26 mmol), potassium phosphate (3.98 g, 18.77 mmol) and tetrakis(triphenylphosphine)palladium (0.54 g, 0.47 mmol) were added to a microwave tube containing a stirrer bar. Dimethylacetamide (12 mL) and water (4 mL) were then added and the reaction was heated to 150° C. for 10 min. The reaction was filtered through silica and washed through with methanol and concentrated under reduced pressure. The crude was suspended in diethyl ether and the solid collected and was used without further purification. Yield: 1.70 g, 71%; LCMS method: 1, RT: 3.43 min, MI: 241 [M+1]. NMR 1H (DMSO): 3.82 (s, 3H), 6.16 (brs, 2H), 6.96 (d, 1H), 7.06 (d, 2H), 7.29 (d, 1H), 7.46 (t, 1H), 7.92 (d, 2H).

reactant | 5-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 9.4 mmol, 2 g | BrC1=CC=CC=2N1N=C(N2)N | C6H5BrN4
reactant | 4-methoxybenzeneboronic acid | 11.26 mmol, 1.71 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium phosphate | 18.77 mmol, 3.98 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Dimethylacetamide | 12 mL | CC(=O)N(C)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.47 mmol, 0.54 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4 mL | O | H2O
product | 5-(4-Methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | COC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O
